US05495020
To a solution of 7-(4-benzyl-1-piperazinyl)-1-cyclopropyl-6-fluoro-5,8-dimethyl-1, 4-dihydro-4-oxoquinoline-3-carboxylic acid (150 mg) in ethanol (20 ml) is added 10% Pd-C (50 mg) and the catalytic reduction is carried out at 70° C. under atomospheric pressure. After filtering off the 10% Pd-C, the filtrate is concentrated. The residue is recrystallized from dimethylformamide to give 7-(1-piperazinyl)-1-cyclopropyl-6-fluoro-5,8-dimethyl-1, 4-dihydro-4-oxoquinoline-3-carboxylic acid (64 mg), m.p. 185°-187° C., as pale yellow needles.

reactant | 7-(4-benzyl-1-piperazinyl)-1-cyclopropyl-6-fluoro-5,8-dimethyl-1, 4-dihydro-4-oxoquinoline-3-carboxylic acid | 150 mg | C(C1=CC=CC=C1)N1CCN(CC1)C1=C(C(=C2C(C(=CN(C2=C1C)C1CC1)C(=O)O)=O)C)F | C26H28FN3O3
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | Pd-C | 50 mg | [Pd] | Pd
product | 7-(1-piperazinyl)-1-cyclopropyl-6-fluoro-5,8-dimethyl-1, 4-dihydro-4-oxoquinoline-3-carboxylic acid | 64 mg | N1(CCNCC1)C1=C(C(=C2C(C(=CN(C2=C1C)C1CC1)C(=O)O)=O)C)F | C19H22FN3O3
